US06897224B2
Analogously to Example 20, 500 mg (1.6 mmol) of 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal and 500 mg (1.9 mmol) of 5-aminoisoquinoline in 16 ml of acetic acid are reacted to form 4-(5-fluoro-2-methoxyphenyl)-4-methyl-1-(isoquinolin-5-ylimino)-2-(trifluoromethyl)-pentan-2-ol and subsequently reduced with 509 mg (2.4 mmol) of sodium triacetoxy borohydride. After chromatography on silica gel with hexane-ethyl acetate (0-60%), 221 mg of product is obtained.

reactant | 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)pentanal | 1.6 mmol, 500 mg | FC=1C=CC(=C(C1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16F4O3
reactant | 5-aminoisoquinoline | 1.9 mmol, 500 mg | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
solvent | acetic acid | 16 ml | C(C)(=O)O | C2H4O2
product | 4-(5-fluoro-2-methoxyphenyl)-4-methyl-1-(isoquinolin-5-ylimino)-2-(trifluoromethyl)-pentan-2-ol | FC=1C=CC(=C(C1)C(CC(C=NC1=C2C=CN=CC2=CC=C1)(O)C(F)(F)F)(C)C)OC | C23H22F4N2O2
